### PR TITLE
[Merged by Bors] - feat: port Data.Bitvec.Basic

### PR DESCRIPTION
**Pull request by Shreyas4991**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Shreyas4991** [comment]
On hold for two reasons:
1. https://github.com/leanprover-community/mathlib4/pull/2179#discussion_r1101733163
2. Tactic `mono` needs to be ported.

**Comment by casavaca** [comment]
I made small changes to remove dependency of `ac_mono` and `mono`.

**Comment by Shreyas4991** [comment]
> I made small changes to remove dependency of `ac_mono` and `mono`.

Thanks. I can now proceed with finishing this port.

File: Mathlib/Data/Bitvec/Basic.lean [hunk 1]
```diff
@@ -92,34 +90,41 @@ theorem ofNat_toNat {n : ℕ} (v : Bitvec n) : Bitvec.ofNat _ v.toNat = v := by
...
+    rename_i tail_ih
+    apply tail_ih
     rfl
 #align bitvec.of_nat_to_nat Bitvec.ofNat_toNat
 
+set_option pp.coercions false
 theorem toFin_val {n : ℕ} (v : Bitvec n) : (toFin v : ℕ) = v.toNat := by
-  rw [to_fin, Fin.coe_of_nat_eq_mod, Nat.mod_eq_of_lt] <;> apply to_nat_lt
+  rw [toFin]
+  rw [Fin.coe_ofNat_eq_mod']
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Basic.lean:103]: I'm pretty sure this lemma doesn't exist any more; can you rebase on master?

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean:103]: In that case, deleting it is easier, since the coercion is giving me a headache. `Fin.coe_of_nat_eq_mod` doesn't exist but `Fin.coe_of_nat_eq_mod'` does

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean:103]: I am not asking you to delete `toFin_val`, my comment was about `Fin.coe_of_nat_eq_mod`

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean:103]: It exists on the latest  mathlib3port if that is what you mean: https://github.com/leanprover-community/mathlib3port/blob/1107b9799e5841267f0cc8d3ef34f79c0180fa45/Mathbin/Data/Bitvec/Basic.lean#L103

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean:103]: > but `Fin.coe_of_nat_eq_mod'` does

Not in master it doesn't.

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean:103]: Oh. I see what you mean. Will rebase right away

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean:103]: Done. a dsimp fixed the coercion

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean]: It looksk like you made the mistake of rebasing then merging, which makes a mess of the history. After rebasing, you should `git push --force-with-lease`

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean]: I recommend you
* `git reset --hard 31c562ccfed156aaab8741b2434f6833ad21ac9e`
* `git push --force-with-lease`

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean]: You can then `git cherry-pick 93175c3a82ec5c03df1115f7a09bafea0173ffca` to recover the commit you just made after I wrote that comment.

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean]: Okay, but git rebase + merge seems to have put my commits after the commits on the master branch. Is this incorrect?

Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean]: @eric-wieser I have a successful build. The history seems fine now. All the changes I did come after the changes to master on which I rebased. Is this correct?

File: Mathlib/Data/Bitvec/Basic.lean [hunk 2]
```diff
@@ -92,34 +90,41 @@ theorem ofNat_toNat {n : ℕ} (v : Bitvec n) : Bitvec.ofNat _ v.toNat = v := by
...
+    rename_i tail_ih
+    apply tail_ih
     rfl
 #align bitvec.of_nat_to_nat Bitvec.ofNat_toNat
 
+set_option pp.coercions false
 theorem toFin_val {n : ℕ} (v : Bitvec n) : (toFin v : ℕ) = v.toNat := by
-  rw [to_fin, Fin.coe_of_nat_eq_mod, Nat.mod_eq_of_lt] <;> apply to_nat_lt
+  rw [toFin]
+  dsimp only [Fin.coe_ofNat_eq_mod]
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Basic.lean:103]: Does `Fin.coe_ofNat_eq_mod` not work in the `rw` any more?

File: Mathlib/Data/Bitvec/Basic.lean [hunk 3]
```diff
@@ -92,34 +90,41 @@ theorem ofNat_toNat {n : ℕ} (v : Bitvec n) : Bitvec.ofNat _ v.toNat = v := by
     subst n
     simp only [Bitvec.ofNat, Vector.toList_cons, Vector.toList_nil, List.reverse_cons,
       Vector.toList_append, List.foldr]
-    erw [add_lsb_div_two, to_bool_add_lsb_mod_two]
+    erw [addLsb_div_two, decide_addLsb_mod_two]
     congr
-    apply ys_ih
+    rename_i tail_ih
```
Comment (eric-wieser) [inline Mathlib/Data/Bitvec/Basic.lean:100]: `rename_i` is usually the wrong approach. Can't you introduce the name earlier instead?

File: Mathlib/Data/Bitvec/Basic.lean (hunk 2 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean]: Yeah it worked now. Changed it

File: Mathlib/Data/Bitvec/Basic.lean (hunk 3 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean:100]: It was a hidden name. The hidden name was tail_ih

File: Mathlib/Data/Bitvec/Basic.lean (hunk 1 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean]: I did this, but I don't see this push

File: Mathlib/Data/Bitvec/Basic.lean (hunk 3 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean:100]: The purpose of hidden names being inaccessible is to force you to pick a good name in the first place when it's introduced.

Using `rename_i` is cheating!

Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean:100]: I've made [a Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/rename_i.20during.20porting/near/329266787) here.

File: Mathlib/Data/Bitvec/Basic.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Data/Bitvec/Basic.lean]: Looks good now, thanks

File: Mathlib/Data/Bitvec/Basic.lean (hunk 3 above)
Comment (Shreyas4991) [reply Mathlib/Data/Bitvec/Basic.lean]: replaced the induction with induction' and added names for the hypothesis. I really don't see how this is in any way better in terms of readability.

**Comment by Ruben-VandeVelde** [comment]
I updated with the latest mathport output.

**Review by Ruben-VandeVelde — APPROVED** [review]

**Comment by semorrison** [comment]
bors merge
